US05750702
16. 2-Nitro-4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic Acid
4-Oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (179 mg, 1 mmol) was added in portions over 30 minutes to fuming nitric acid (2 mL) at 0° C. The mixture was stirred an additonal 1.25 hours, then allowed to stir at ambient temperature for 1.25 hours. The mixture was poured into ice water and extracted 2X with ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo to give the title compound(0.19 g).

reactant | 4-Oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid | 1 mmol, 179 mg | O=C1C=2C(=CNC2CCC1)C(=O)O | C9H9NO3
reactant | nitric acid | 2 mL | [N+](=O)(O)[O-] | HNO3
product | 2-Nitro-4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic Acid | 0.19 g | [N+](=O)([O-])C=1NC=2CCCC(C2C1C(=O)O)=O | C9H8N2O5
